US07763639B2
1-BROMO-2-METHYL-3-(METHYLTHIO)BENZENE
To a solution of 1-bromo-3-fluoro-2-methylbenzene (2.0 g, 10.6 mmol) in N,N-dimethylformamide (10 ml) was added sodium methanethiolate (0.85 g, 11.7 mmol) and the mixture was stirred for 15 min at 150° C. After cooling, aqueous sodium carbonate (10%, 50 ml) was added and the phases were separated. The aqueous phase was extracted with ethylacetate (2×50 ml) and the combined organic phases was dried (MgSO4) and evaporated under reduced pressure to give an oil. The residue was purified by flash column chromatography (isooctane) to give the title compound (1.33 g). MS m/z (relative intensity, 70 eV) 218 (M+, 98), 216 (M+, 92), 202 (26), 200 (26), 122 (bp), 121 (56).

reactant | 1-bromo-3-fluoro-2-methylbenzene | 10.6 mmol, 2.0 g | BrC1=C(C(=CC=C1)F)C | C7H6BrF
reactant | sodium methanethiolate | 11.7 mmol, 0.85 g | C[S-].[Na+]
reactant | sodium carbonate | 50 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-BROMO-2-METHYL-3-(METHYLTHIO)BENZENE | 1.33 g | BrC1=C(C(=CC=C1)SC)C | C8H9BrS
